US08445495B2
To a solution of (R)-benzyl 4-(2-fluoro-3-(3-(6-methylpyridin-3-yl)ureido)benzyl)-2-methylpiperazine-1-carboxylate (7.0 g, 14.3 mmol, 1.0 equiv) in MeOH (50 mL) was added 10% Pd/C (approx. 5 g). The resulting suspension was stirred and sparged with hydrogen gas using a balloon and needle. After 1 h, reaction was complete, as determined by LCMS. The mixture was filtered through a pad of Celite, and the celite pad was washed with additional methanol. The mixture was concentrated in vacuo, and 2.55 g (7.14 mmol) of the resulting residue was dissolved in dry THF (35 mL). To this room temperature solution was added Et3N (4.0 mL, 28.6 mmol, 4.0 equiv), followed by 4-nitrophenyl chloroformate (1.58 g, 7.85 mmol, 1.1 equiv). After 15 min, the reaction was complete, as judged by LCMS. Azetidine (530 μL, 7.85 mmol, 1.1 equiv) was added by syringe. After 1 h, additional azetidine (265 μL, 3.9 mmol, 0.5 equiv) and Et3N (500 μL, 3.6 mmol, 0.5 equiv) were added by syringe, and the reaction mixture was heated to 60° C. overnight. The reaction was the allowed to cool to room temperature, and the solvent was removed in vacuo. The residue was dissolved in EtOAc and washed three times with 1 N NaOH, and once with brine. The organic layer was then dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography on silica gel (20% MeOH/DCM) provided (R)-1-(3-((4-(azetidine-1-carbonyl)-3-methylpiperazin-1-yl)methyl)-2-fluorophenyl)-3-(6-methylpyridin-3-yl)urea as a white foam (885 mg, 28%). LCMS m/z (APCI)=441.2 (M+H).

reactant | (R)-benzyl 4-(2-fluoro-3-(3-(6-methylpyridin-3-yl)ureido)benzyl)-2-methylpiperazine-1-carboxylate | 14.3 mmol, 7.0 g, 1.0 equiv | FC1=C(CN2C[C@H](N(CC2)C(=O)OCC2=CC=CC=C2)C)C=CC=C1NC(=O)NC=1C=NC(=CC1)C | C27H30FN5O3
reactant | Et3N | 28.6 mmol, 4.0 mL, 4.0 equiv | CCN(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 7.85 mmol, 1.58 g, 1.1 equiv | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Azetidine | 7.85 mmol, 530 μL, 1.1 equiv | N1CCC1 | C3H7N
reactant | azetidine | 3.9 mmol, 265 μL, 0.5 equiv | N1CCC1 | C3H7N
reactant | Et3N | 3.6 mmol, 500 μL, 0.5 equiv | CCN(CC)CC | C6H15N
solvent | MeOH | 50 mL | CO | CH4O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | approx. 5 g | [Pd] | Pd
product | (R)-1-(3-((4-(azetidine-1-carbonyl)-3-methylpiperazin-1-yl)methyl)-2-fluorophenyl)-3-(6-methylpyridin-3-yl)urea | 885 mg, 28% | N1(CCC1)C(=O)N1[C@@H](CN(CC1)CC=1C(=C(C=CC1)NC(=O)NC=1C=NC(=CC1)C)F)C | C23H29FN6O2
